US04407823
50 mg. of 2-(4-cyclopentylmethylphenyl)propionic acid is dissolved in 2 ml. of methanol, titrated with a 3% methanolic sodium methylate solution, concentrated under vacuum, and 50 mg. of sodium 2-(4-cyclopentylmethylphenyl)propionate, m.p. 206° is obtained in this way.

reactant | 2-(4-cyclopentylmethylphenyl)propionic acid | C1(CCCC1)CC1=CC=C(C=C1)C(C(=O)O)C | C15H20O2
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | sodium 2-(4-cyclopentylmethylphenyl)propionate | C1(CCCC1)CC1=CC=C(C=C1)C(C(=O)[O-])C.[Na+] | InChI=1S/C15H20O2.Na/c1-11(15(16)17)14-8-6-13(7-9-14)10-12-4-2-3-5-12;/h6-9,11-12H,2-5,10H2,1H3,(H,16,17);/q;+1/p-1
